US04226611
Ethyl N-phosphonomethylglycine (9.85 g., 0.05 mole) and benzyl chloroformate (9.4 g., 0.05 mole) were dissolved in 50 ml. of water and sodium carbonate (7.95 g., 0.075 mole) was added over a 1/2 hour period. The solution was stirred until all of the benzyl chloroformate had reacted. Concentrated hydrochloric acid (12.5 ml) was then added. Upon standing ethyl N-carbobenzoxy-N-phosphonomethylglycinate separated as an oil. The oil was then dried in a vacuum dessicator over phosphorus pentoxide at 0.55 torr. A 4 g. sample of the oil was dissolved in oxalyl chloride (20 ml) and stirred until gas evolution ceased. The mixture was concentrated in vacuo to yield ethyl N-carbobenzoxy-N-(dichlorophosphonomethyl)glycinate as a colorless oil. The oil is treated with an excess of oxalyl chloride to convert it to ethyl N-carbobenzoxy-N-phosphonomethylglycine dichloride which is then reacted with the appropriate thiol of the formula

reactant | Ethyl N-phosphonomethylglycine | 0.05 mole, 9.85 g | C(C)N(CC(=O)O)CP(=O)(O)O | C5H12NO5P
reactant | benzyl chloroformate | 0.05 mole, 9.4 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | sodium carbonate | 0.075 mole, 7.95 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | 12.5 ml | Cl | ClH
reactant | ethyl N-carbobenzoxy-N-phosphonomethylglycinate | C(=O)(OCC1=CC=CC=C1)N(CC(=O)OCC)CP(=O)(O)O | C13H18NO7P
solvent | water | O | H2O
product | ethyl N-carbobenzoxy-N-(dichlorophosphonomethyl)glycinate | C(=O)(OCC1=CC=CC=C1)N(CC(=O)OCC)CP(=O)(OCl)OCl | C13H16Cl2NO7P
